US07288538B2
To a solution of an aniline (1.02 g, 10.9 mmol, 11.1 equivalents) dissolved in dry THF (35 mL) and triethylamine (1.53 mL, 1.1 equivalents) at room temperature, sealed with a septum and a nitrogen inlet, was added 2-carbomethoxythiophene-3-sulfonyl chloride (2.5 g, 9.9 mmol, 95% purity). The reaction mixture was stirred at room temperature over night. Upon completion, the reaction will be extracted by diluting with ethyl acetate and washing with aqueous HCl (2N), water and saturated, aqueous sodium chloride solution. The organic layer was dried over sodium sulfate. The solution will be decanted and evaporated under reduced pressure to give the desired 3-phenylsulfamoylthiophene-2-carboxylic acid methyl ester (2.6 g, 88%).

reactant | aniline | 10.9 mmol, 1.02 g, 11.1 equivalents | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 1.53 mL, 1.1 equivalents | C(C)N(CC)CC | C6H15N
reactant | 2-carbomethoxythiophene-3-sulfonyl chloride | 9.9 mmol, 2.5 g | C(=O)(OC)C=1SC=CC1S(=O)(=O)Cl | C6H5ClO4S2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 3-phenylsulfamoylthiophene-2-carboxylic acid methyl ester | 2.6 g, 88% | COC(=O)C=1SC=CC1S(NC1=CC=CC=C1)(=O)=O | C12H11NO4S2
